US07662830B2
1. (5-Chloro-6-{4-[6-(4-fluoro-phenyl)-2-(2-methyl-pyrrolidin-1-yl)-pyrimidin-4-yl]-piperazine-1-yl}-pyridin-3-yl)-acetonitrile
To an ice cooled solution of (5-chloro-6-{4-[6-(4-fluoro-phenyl)-2-(2-methyl-pyrrolidin-1-yl)pyrimidin-4-yl]-piperazin-1-yl}-pyridin-3-yl)-methanol (136 mg, 0.282 mmol) and Et3N (79 μL, 0.564 mmol) in DCM, add MsCl (33 μL, 0.422 mmol) dropwise. Remove ice bath and stir for 1 h at room temperature. Dilute with 3 volumes of DCM, wash with brine, dry the organic layer (Na2SO4) and concentrate under reduced pressure. Dissolve the crude mesylate in DMSO, add 138 mg of NaCN and heat at 60° C. until no starting material remains as indicated by TLC. Dilute with water and extract the aqueous solution with EtOAc. Wash the organic extract with water (2×) followed by brine (1×), dry (Na2SO4) and concentrate under reduced pressure to give crude product. Purify using flash chromatography to give pure title compound.

reactant | (5-chloro-6-{4-[6-(4-fluoro-phenyl)-2-(2-methyl-pyrrolidin-1-yl)pyrimidin-4-yl]-piperazin-1-yl}-pyridin-3-yl)-methanol | 0.282 mmol, 136 mg | ClC=1C=C(C=NC1N1CCN(CC1)C1=NC(=NC(=C1)C1=CC=C(C=C1)F)N1C(CCC1)C)CO | C25H28ClFN6O
reactant | Et3N | 0.564 mmol, 79 μL | CCN(CC)CC | C6H15N
reactant | MsCl | 0.422 mmol, 33 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (5-Chloro-6-{4-[6-(4-fluoro-phenyl)-2-(2-methyl-pyrrolidin-1-yl)-pyrimidin-4-yl]-piperazine-1-yl}-pyridin-3-yl)-acetonitrile | ClC=1C=C(C=NC1N1CCN(CC1)C1=NC(=NC(=C1)C1=CC=C(C=C1)F)N1C(CCC1)C)CC#N | C26H27ClFN7
